US07585885B2
2-Chloro-6-[1,3]dioxan-2-yl-isonicotinic acid methyl ester
Dissolve 2-chloro-6-formyl-isonicotinic acid methyl ester (200 mg, 1.0 mmol) in THF (8 mL). Add Amberlyst® 15 ion exchange resin (0.3 g) and dropwise 1,3-propanediol (0.1 mL, 1.5 mmol). Stir at room temperature for two days. Filter, concentrate and purify (silica gel chromatography, eluting with 0:100 to 10:90 ethyl acetate:hexanes) to give the title compound (88%).

reactant | 2-chloro-6-formyl-isonicotinic acid methyl ester | 1.0 mmol, 200 mg | COC(C1=CC(=NC(=C1)C=O)Cl)=O | C8H6ClNO3
reactant | 1,3-propanediol | 1.5 mmol, 0.1 mL | C(CCO)O | C3H8O2
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 2-Chloro-6-[1,3]dioxan-2-yl-isonicotinic acid methyl ester | 88% | COC(C1=CC(=NC(=C1)C1OCCCO1)Cl)=O | C11H12ClNO4
